US04083948
3-(4-Aminophenyl)-5-chloroanthranil
To a mixture of 100 g (0.662 mole) of o-nitrobenzaldehyde and 160 g (1.05 mole) of phosphorus oxychloride was added dropwise with stirring 100 g (1.08 mole) of aniline, keeping the temperature below 30°. After 3 hr. at room temperature it was heated to 75° for 18 hr. and at 90° for 3 hr. (The reaction becomes exothermic when heated). The mixture was cooled, 200ml of ethanol and 200 ml of concentrated hydrochloric acid were added, then heated to reflux for 3 hr. with stirring. On cooling, the precipitate formed was collected and washed with acetone, then resuspended in dilute ammonium hydroxide for 1 hr. and collected again. After crystallization from ethanol, 70 g (86%) of product was obtained. Recrystallization from ethanol gave orange rods, mp 208°-211°.

reactant | o-nitrobenzaldehyde | 0.662 mole, 100 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | phosphorus oxychloride | 1.05 mole, 160 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | aniline | 1.08 mole, 100 g | NC1=CC=CC=C1 | C6H7N
reactant | hydrochloric acid | 200 ml | Cl | ClH
solvent | ethanol | 200ml | C(C)O | C2H6O
product | 3-(4-Aminophenyl)-5-chloroanthranil | 70 g, 86% | NC1=CC=C(C=C1)C=1ON=C2C=CC(=CC12)Cl | C13H9ClN2O
